### PR TITLE
`SymEnv.ofEnv` is strongly well-formed

### PR DESCRIPTION
**Pull request by zhengyao-lin**
This PR extends the results in #661 to `StronglyWellFormed` and `StronglyWellFormedFor*` (in particular with proofs for acyclicity, transitivity, and `SymEntities.Partitioned` of `SymEnv.ofEnv Γ`):
```
theorem ofEnv_is_swf
  {Γ : TypeEnv}
  (hwf : Γ.WellFormed) :
  (SymEnv.ofEnv Γ).StronglyWellFormed

theorem ofEnv_swf_for_expr
  {Γ : TypeEnv} {tx : TypedExpr}
  (hwf : Γ.WellFormed)
  (hwt : TypedExpr.WellTyped Γ tx) :
  (SymEnv.ofEnv Γ).StronglyWellFormedFor tx.toExpr

theorem ofEnv_swf_for_policy
  {Γ : TypeEnv} {p p' : Policy}
  (hwf : Γ.WellFormed)
  (hwt : wellTypedPolicy p Γ = .some p') :
  (SymEnv.ofEnv Γ).StronglyWellFormedForPolicy p'

theorem ofEnv_swf_for_policies
  {Γ : TypeEnv} {ps ps' : Policies}
  (hwf : Γ.WellFormed)
  (hwt : wellTypedPolicies ps Γ = .some ps') :
  (SymEnv.ofEnv Γ).StronglyWellFormedForPolicies ps'
```

Thanks for reviewing!

### CODE REVIEW

**Review by shaobo-he-aws — APPROVED** [review]
LGTM

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 1]
```diff
@@ -1283,7 +1283,7 @@ theorem map_find?_to_list_find?
   · contradiction
 
 theorem map_find?_implies_find?_weaker_pred
-  [BEq α] [LawfulBEq α] [BEq β] [LawfulBEq β]
```
Comment (chaluli) [inline cedar-lean/Cedar/Thm/Data/Map.lean:1286]: Is it just that the proof doesn't require that \Beta to satisfy BEq / LawfulBEq?

File: cedar-lean/Cedar/Thm/SymCC/Env/Soundness.lean [hunk 2]
```diff
@@ -265,131 +266,6 @@ private theorem env_symbolize?_lookup_ancs
       simp [heq]
     · simp
 
-/--
```
Comment (chaluli) [inline cedar-lean/Cedar/Thm/SymCC/Env/Soundness.lean:268]: Good choice to move these helper lemmas to a new file so that they may be reusable. :)

File: cedar-lean/Cedar/Thm/Validation/Typechecker/WF.lean [hunk 3]
```diff
@@ -386,4 +386,47 @@ theorem wf_env_implies_wf_ancestor_set
   | enum es =>
     simp only [EntitySchemaEntry.ancestors, Set.empty_wf]
 
+theorem wf_env_implies_acyclic_action_hierarchy
```
Comment (chaluli) [inline cedar-lean/Cedar/Thm/Validation/Typechecker/WF.lean:389]: Nice theorems.

**Review by chaluli — APPROVED** [review]
Looks good to me. Nice!

File: cedar-lean/Cedar/Thm/Data/Map.lean (hunk 1 above)
Comment (zhengyao-lin) [reply cedar-lean/Cedar/Thm/Data/Map.lean:1286]: Yes. `β` is the type of the map values here, so it doesn't actually need to be compared at all.
